US06734206B1
Sodium borohydride (4.1 mg, 0.11 mmol) was added to a solution of (4{(R)-2-[4-(3-Chlorophenyl)-3-oxo-butyl]-5-oxo-pyrrolidin-1-yl}-butoxy)-acetic acid methyl ester (44 mg, 0.11 mmol) in CH2Cl2 (1 mL) at rt. Methanol (3 drops) was added and the reaction was stirred at rt for 4.5 h. Aqueous HCl (0.5 M, 5 mL) was added and the mixture was extracted with CH2Cl2 (2×8 mL). The combined organic phase was dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by flash column chromatography (0%→3% MeOH/CH2Cl2) to afford 9.1 mg (21%) of (4-{(R)-2-[4-(3-chlorophenyl)-3-hydroxy-butyl]-5-oxo-pyrrolidin-1-yl}-butoxy)-acetic acid methyl ester.

reactant | Sodium borohydride | 0.11 mmol, 4.1 mg | [BH4-].[Na+]
reactant | (4{(R)-2-[4-(3-Chlorophenyl)-3-oxo-butyl]-5-oxo-pyrrolidin-1-yl}-butoxy)-acetic acid methyl ester | 0.11 mmol, 44 mg | COC(COCCCCN1[C@@H](CCC1=O)CCC(CC1=CC(=CC=C1)Cl)=O)=O | C21H28ClNO5
reactant | HCl | 0.5 M, 5 mL | Cl | ClH
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
catalyst | Methanol | 3 drops | CO | CH4O
product | (4-{(R)-2-[4-(3-chlorophenyl)-3-hydroxy-butyl]-5-oxo-pyrrolidin-1-yl}-butoxy)-acetic acid methyl ester | 9.1 mg, 21% | COC(COCCCCN1[C@@H](CCC1=O)CCC(CC1=CC(=CC=C1)Cl)O)=O | C21H30ClNO5
